US07687469B2
1-Chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-(4-methoxymethylethynyl-benzyl)-benzene
1 g 1-chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-[4-(trifluoromethylsulfonyloxy)-benzyl]-benzene, 2 mL triethylamine and 3 mL dimethylformamide are placed in a flask under argon atmosphere. 56 mg copper iodide, 103 mg bis-(triphenylphosphine)-palladium dichloride and finally 0.31 g methyl propargyl ether are added. The flask is tightly sealed and the mixture is stirred at 65° C. for 30 h. Then the reaction mixture is diluted with ethyl acetate and washed with 1 M hydrochloric acid. The organic phase is dried over magnesium sulfate and the solvent is removed under reduced pressure. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 4:1->2:1).

reactant | 1-chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-[4-(trifluoromethylsulfonyloxy)-benzyl]-benzene | 1 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C28H28ClF3O13S
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
reactant | methyl propargyl ether | 0.31 g | C(C#C)OC | C4H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 56 mg | [Cu](I)I
catalyst | bis-(triphenylphosphine)-palladium dichloride | 103 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-Chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-(4-methoxymethylethynyl-benzyl)-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)C(C1=CC=C(C=C1)COC)C#C | C31H33ClO11
